US07713994B2
1-[1-(4-Nitro-benzyl)-pyrrolidin-2-yl]-ethanol
2-(1-Hydroxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 4.6 mmol) in CH2Cl2 is cooled to 0° C. and TFA (2.5 mL) is added dropwise. The mixture is allowed to stir at room temperature overnight. All the volatiles were removed and CH3CN (20 mL) is added. After addition of 4-nitrobenzyl bromide (1.25 g, 5.78 mmol) and K2CO3 (2.0 g, 14.4 mmol), the mixture is stirred at room temperature for 5 hours.

reactant | 2-(1-Hydroxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.6 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(C)O | C11H21NO3
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-nitrobenzyl bromide | 5.78 mmol, 1.25 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | K2CO3 | 14.4 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[1-(4-Nitro-benzyl)-pyrrolidin-2-yl]-ethanol | [N+](=O)([O-])C1=CC=C(CN2C(CCC2)C(C)O)C=C1 | C13H18N2O3
